US07265144B2
Preparation of 4-bromo-3-tert-butyl-1-(2-methylphenyl)-1H-pyrazol-5-amine
To a solution of 3-tert-butyl-1-(2-methylphenyl)-1H-pyrazol-5-amine (1.00 g, 4.36 mmol) in acetic acid (10 mL) was added bromine (662 mg, 0.21 mL, 4.14 mmol) dropwise. The reaction mixture was stirred for 5 min, and then diluted with water (50 mL), causing a solid to precipitate. The solid was collected by filtration, then dissolved in EtOAc (50 mL). The EtOAc solution was then washed with saturated NaHCO3 and brine, dried (Na2SO4), and concentrated under reduced pressure to afford the product (935 mg, 70%) as a white solid: 1H NMR (300 MHz, DMSO-d6) δ 1.32 (s, 9H), 2.04 (s, 3H) 5.02 (s, 2H), 7.20-7.38 (m, 4H). ES-MS m/z 308.6 (MH+); HPLC RT (min) 3.15.

reactant | 3-tert-butyl-1-(2-methylphenyl)-1H-pyrazol-5-amine | 4.36 mmol, 1.00 g | C(C)(C)(C)C1=NN(C(=C1)N)C1=C(C=CC=C1)C | C14H19N3
reactant | bromine | 4.14 mmol, 0.21 mL, 662 mg | BrBr | Br2
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | water | 50 mL | O | H2O
product | 4-bromo-3-tert-butyl-1-(2-methylphenyl)-1H-pyrazol-5-amine | 935 mg, 70% | BrC=1C(=NN(C1N)C1=C(C=CC=C1)C)C(C)(C)C | C14H18BrN3
